Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neck mass with compressive symptoms (dyspnea, dysphagia)
 
Major Surgical or Invasive Procedure:
___ mass excision
 
History of Present Illness:
Mrs. ___ is a ___ with a h/o hypothyroidism, HTN, HLD,
GERD presenting with dyspnea on exertion, not impairing her
daily function but worsened by climbing stairs. Apart from mild
DOE, vocal hoarseness, and fatigue, she reports being otherwise
asymptomatic. She denies any pain, dysphagia, cough, or choking
with food/medications. Today, she expresses concern about the
costs of care and would like costs to be as transparent as
possible.

In addition, she denies lethargy, cold intolerance, dry skin,
constipation, low mood, weight gain, anxiety, tremor, heat
intolerance, diaphoresis, diarrhea, palpitations, weight loss,
fevers, night sweats, or myalgias. 

A CT chest on ___, revealed a right-sided superior
mediastinal fatty mass that extended into her neck. Initial
biopsies were equivocal. U/S guided core biopsy was performed by
Dr. ___ on ___, revealing a large neck mass that was negative
for MDM2 on FISH. 
 
Past Medical History:
Hypothyroidism
Hypertension
Hyperlipidimia
GERD
 
Social History:
___
Family History:
Denies problems with anesthesia, denies bleeding disorders
 
Physical Exam:
HEENT: NCAT, EOMI, anicteric, lower right neck mildly tender to
palpation with no palpable masses, horizontal neck incision 
c/d/i
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ 
for a neck mass resection. She tolerated the procedure well 
without complications (Please see operative note for further 
details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled on Tylenol.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation was encouraged throughout 
hospitalization.

GI: The patient was initially started on a clear liquid diet. 
The patient was later advanced to and tolerated a regular diet 
at time of discharge. Patient's intake and output were closely 
monitored

GU: Urine output was monitored as indicated. She had 
intermittent straight catherization for PVR of 713cc. At time of 
discharge, the patient was voiding without difficulty.

ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of whcich there were none.

Heme:  The patient received ___ dyne boots were used during 
this stay, she was encouraged to get up and ambulate as early as 
possible. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Lovastatin 40 mg oral DAILY 
3. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  amLODIPine 5 mg PO DAILY  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Lovastatin 40 mg oral DAILY  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neck Lipoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your neck mass / lipoma resection. You have adequate pain 
control and have tolerated a regular diet and may return home to 
continue your recovery. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. 
You may also take acetaminophen (Tylenol) as directed, but do 
not exceed 4000 mg in one day. Please get plenty of rest, 
continue to walk several times per day, and drink adequate 
amounts of fluids. 

Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.

After your surgery you developed some urinary retention. This 
may occur sometimes after surgery, but also may be a long 
standing condition that you may not have noticed before. Please 
follow up with your primary care physician at your earliest 
convivence to address this matter. 

Thank you for allowing us to participate in your care!

 
Followup Instructions:
___